US07498354B2
A flask containing a mixture of ethyl 1-(3-bromophenyl)-1,4-dihydropyrrolo[2,3-d]imidazole-5-carboxylate (334 mg, 1 mmol, prepared according to the procedure described for example 1 except using 3-bromoaniline in the first step) and 3-thiophene boronic acid (256 mg, 2 mmol) was degassed and placed under a nitrogen atmosphere To this was quickly added tetrakis(triphenylphosphine)palladium(0) (173.3 mg, 0.15 mmol) in one portion followed by degassed solutions of 1,4-dioxane (5 mL) and aqueous sodium carbonate (2 M, 3 mL). The reaction mixture was heated at 85° C. under nitrogen for 24 hours after which time it was cooled, filtered and concentrated in vacuo. The resulting crude material was chromatographed over silica gel eluting with MeOH:CH2Cl2 0%→2%] to afford 329 mg (97.5%) of ethyl 1-(3-thien-3-ylphenyl)-1,4-dihydropyrrolo[2,3-d]imidazole-5-carboxylate. 1H NMR (400 MHz, CDCl3): δ=8.02 (s, 1H), 7.75-7.72 (m, 1H), 7.58-7.53 (m, 3H), 7.48-7.41 (m, 3H), 6.98 (d, J=1.2 Hz, 1H), 4.37 (q, J=7.2 Hz, 2H), 1.40 (t, J=7.2 Hz, 3H). MS (ES+): m/z 338.13 (100) [MH+].

reactant | ethyl 1-(3-bromophenyl)-1,4-dihydropyrrolo[2,3-d]imidazole-5-carboxylate | BrC=1C=C(C=CC1)N1C=NC2=C1C=C(N2)C(=O)OCC | C14H12BrN3O2
reactant | 3-bromoaniline | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | 3-thiophene boronic acid | 2 mmol, 256 mg | S1C=C(C=C1)B(O)O | C4H5BO2S
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.15 mmol, 173.3 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 1-(3-thien-3-ylphenyl)-1,4-dihydropyrrolo[2,3-d]imidazole-5-carboxylate | 329 mg, 97.5% | S1C=C(C=C1)C=1C=C(C=CC1)N1C=NC2=C1C=C(N2)C(=O)OCC | C18H15N3O2S
